US04059585
1,7,8,12b-tetrahydrobenzo[1,2]-cyclohepta[3,4,5-de]Isoquinoline N-oxide (3)
To a cold solution (5° - 15° C) of 1,7,8,12b-tetrahydrobenzo[1,2]-cyclohepta[3,4,5-de]isoquinoline (2.7 g) in chloroform (30 ml), a solution of m-chloroperbenzoic acid (2.3 g) in 20 ml of chloroform is added dropwise. The reaction mixture is allowed to stand at room temperature (i.e., 20° - 25° C) for 30 minutes. The reaction mixture is then washed with 15% ammonium hydroxide and water. The reaction mixture is dried (MgSO4) and concentrated to yield an oily residue. The oily residue is crystallized from benzene/hexane to give the title compound, mp 156° - 158° C.

reactant | 1,7,8,12b-tetrahydrobenzo[1,2]-cyclohepta[3,4,5-de]isoquinoline | 2.7 g | C1N=CC=2C=CC=C3C2C1C1=C(CC3)C=CC=C1 | C17H15N
reactant | m-chloroperbenzoic acid | 2.3 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,7,8,12b-tetrahydrobenzo[1,2]-cyclohepta[3,4,5-de]Isoquinoline N-oxide | C1[N+](=CC=2C=CC=C3C2C1C1=C(CC3)C=CC=C1)[O-] | C17H15NO
